US08071595B2
To a solution of benzo[c][1,2,5]oxadiazole-5-carbonitrile (700 mg, 1.33 mol) in EtOH (100 mL) was added H2SO4 (20 mL) and the reaction mixture was refluxed for 14 h. The reaction was concentrated in vacuo and the residue was diluted with water (50 mL), and extracted with DCM (2×100 mL). The combined organic layers were dried over magnesium sulfate, filtered, and then concentrated in vacuo to afford ethyl benzo[c][1,2,5]oxadiazole-5-carboxylate (0.7 g, 75%) as a yellow, sticky solid.

reactant | benzo[c][1,2,5]oxadiazole-5-carbonitrile | 1.33 mol, 700 mg | N=1ON=C2C1C=CC(=C2)C#N | C7H3N3O
reactant | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
reactant | EtOH | 100 mL | CCO | C2H6O
product | ethyl benzo[c][1,2,5]oxadiazole-5-carboxylate | 0.7 g, 75% | N=1ON=C2C1C=CC(=C2)C(=O)OCC | C9H8N2O3
